US05334600
To a chilled (0° C.) solution of 6-[3-hydroxy-1-butyn-1-yl]-2-{[5-(4-fluorophenyl)-2-pyridyl]-methyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline (510 mg, 1.3 mmol), N,O-bis(phenoxycarbonyl)hydroxylamine (390 mg, 1.4 mmol), and triphenylphosphine (0.42 g, 1.6 mmol) in THF (10 mL) is added a solution of diisopropyl azodicarboxylate (320 mg, 0.32 mL, 1.6 mmol) in THF (2 mL). After 16 hours, the reaction is concentrated in vacuo and the residue chromatographed (silica gel. 1:1 EtOAc/hexanes) to afford 6-{3-[N,O-bis(phenoxycarbonyl)hydroxylamino]-1-butyn-1-yl}-2-{[5-(4-fluorophenyl)-2-pyridyl]-methyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline as an oil.

reactant | 6-[3-hydroxy-1-butyn-1-yl]-2-{[5-(4-fluorophenyl)-2-pyridyl]-methyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline | 1.3 mmol, 510 mg | OC(C#CC=1C=C2CCN(C(C2=CC1)=O)CC1=NC=C(C=C1)C1=CC=C(C=C1)F)C | C25H21FN2O2
reactant | N,O-bis(phenoxycarbonyl)hydroxylamine | 1.4 mmol, 390 mg | O(C1=CC=CC=C1)C(=O)NOC(=O)OC1=CC=CC=C1 | C14H11NO5
reactant | triphenylphosphine | 1.6 mmol, 0.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.6 mmol, 0.32 mL, 320 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-{3-[N,O-bis(phenoxycarbonyl)hydroxylamino]-1-butyn-1-yl}-2-{[5-(4-fluorophenyl)-2-pyridyl]-methyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline | O(C1=CC=CC=C1)C(=O)N(C(C#CC=1C=C2CCN(C(C2=CC1)=O)CC1=NC=C(C=C1)C1=CC=C(C=C1)F)C)OC(=O)OC1=CC=CC=C1 | C39H30FN3O6
